US08957062B2
Step B: (2-fluoro-4-{2-[(1S,2R)-2-(1-{[(1-methylcyclopropyl)oxy]carbonyl}piperidin-4-yl)cyclopropyl]ethoxy}phenyl)acetic acid
To a solution of 1-methylcyclopropyl 4-[(1R,2S)-2-{2-[3-fluoro-4-(2-methoxy-2-oxoethyl)phenoxy]ethyl}cyclopropyl]piperidine-1-carboxylate (0.450 g, 1.04 mmol) in 14 ml anhydrous tetrahydrofuran was added by 7 ml methanol and 7 ml water. Lithium hydroxide (0.393 g, 16.39 mmol) was added into the reaction mixture, and the reaction was stirred at RT overnight. 1 M hydrochloric acid was added to adjust the pH to 4. The volatiles were removed under vacuum, and the remaining aqueous layer was extracted with dichloromethane (3×50 ml). The organics were combined, dried over magnesium sulphate, filtered, and the filtrate concentrated under reduced pressure. The residue was purified on Biotage column (50 g silica gel) using a gradient eluent of 0-70% ethyl acetate in hexanes (700 ml) to afford the title compound. LC/MS (m/z) 420.2 (M+H)+.

reactant | 1-methylcyclopropyl 4-[(1R,2S)-2-{2-[3-fluoro-4-(2-methoxy-2-oxoethyl)phenoxy]ethyl}cyclopropyl]piperidine-1-carboxylate | 1.04 mmol, 0.450 g | FC=1C=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OC2(CC2)C)C=CC1CC(=O)OC | C24H32FNO5
reactant | methanol | 7 ml | CO | CH4O
reactant | Lithium hydroxide | 16.39 mmol, 0.393 g | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
product | (2-fluoro-4-{2-[(1S,2R)-2-(1-{[(1-methylcyclopropyl)oxy]carbonyl}piperidin-4-yl)cyclopropyl]ethoxy}phenyl)acetic acid | FC1=C(C=CC(=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC1(CC1)C)CC(=O)O | C23H30FNO5
